US05650513
N-(1-Tetradecyl)perylene-3,4-dicarboximide
0.40 g (1.25 mmol) of perylene-3,4-dicarboximide and 0.45 g (8 mmol) of KOH powder are suspended in 30 ml of DMSO, 1.38 g of 1-bromotetradecane are added, and the mixture is stirred at room temperature for 90 h. For precipitation, 300 ml of dist. water are added, the precipitated product is filtered off with suction and washed with dist. water and dilute sodium chloride solution. Chromatographic filtration, followed by column chromatography, in each case on silica gel using chloroform, gives a yellow and a red fraction. According to thin-layer chromatography on silica gel using 3:2 xylene/petroleum ether, the yellow fraction contains 3 products having such similar Rf values that no further purification is undertaken. Yield 30 mg. A colour comparison shows that the red fraction is N-(1-tetradecyl)perylene-3,4-dicarboximide. Yield 30 mg (5%) of a red powder showing a strong solid fluorescence. Rf (CHCl3 /silica gel)=0.81.

reactant | perylene-3,4-dicarboximide | 1.25 mmol, 0.40 g | C1=CC2=C3C(=CC=C4C5=CC=CC6=CC=CC(C1=C34)=C56)C(NC2=O)=O | C22H11NO2
reactant | KOH | 8 mmol, 0.45 g | [OH-].[K+]
reactant | 1-bromotetradecane | 1.38 g | BrCCCCCCCCCCCCCC | C14H29Br
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | N-(1-Tetradecyl)perylene-3,4-dicarboximide | C(CCCCCCCCCCCCC)N1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C36H39NO2
